US06008230
To a solution of 4-carboxymethyl-8-(2,6-dichlorobenzoylamino)-3-vinylquinoline (190.1 mg) were added pivaloyl chloride (62.8 mg) and triethylamine (52.7 mg) at 0° C., and the mixture was stirred for 1 hour at the same temperature. To the mixture was added 2-aminomethylpyridine (154 mg) at 0° C., and the mixture was stirred for 30 minutes at the same temperature and for 1 hour at ambient temperature. The mixture was partitioned between dichloromethane and water. The organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by preparative thin layer chromatography (methanol-dichloromethane) to give 8-(2,6-dichlorobenzoylamino)-4-[(pyridin-2-ylmethyl)carbamoylmethyl]-3-vinylquinoline (34.4 mg).

reactant | 4-carboxymethyl-8-(2,6-dichlorobenzoylamino)-3-vinylquinoline | 190.1 mg | C(=O)(O)CC1=C(C=NC2=C(C=CC=C12)NC(C1=C(C=CC=C1Cl)Cl)=O)C=C | C20H14Cl2N2O3
reactant | pivaloyl chloride | 62.8 mg | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | 2-aminomethylpyridine | 154 mg | NCC1=NC=CC=C1 | C6H8N2
solvent | triethylamine | 52.7 mg | C(C)N(CC)CC | C6H15N
product | 8-(2,6-dichlorobenzoylamino)-4-[(pyridin-2-ylmethyl)carbamoylmethyl]-3-vinylquinoline | 34.4 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=C(C=NC23)C=C)CC(NCC2=NC=CC=C2)=O)C(=CC=C1)Cl | C26H20Cl2N4O2
